US06933305B2
To a tetrahydrofuran solution of 4-amino-1-[2-(trimethylsilyl)ethoxymethyl]pyrrolo[2,3-b]pyridine (1.32 g) was added dropwise n-butyllithium (1.59 M, 3.17 ml) and the mixture was stirred at the same temperature for 15 min. To this solution was added dropwise a tetrahydrofuran solution (20 ml) of (S)-4-(benzyloxycarbonylamino)thiochromane-7-carboxylic acid chloride (4.20 mmol) obtained by a similar reaction step as in Starting Material Synthetic Example 9 at 0° C. The reaction mixture was stirred at room temperature for 5 hr. Water (100 ml) was added and the mixture was extracted with ethyl acetate. The obtained organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate. The solvent was evaporated and purified by silica gel column chromatography (hexane-ethyl acetate) to give the objective (S)-4-(benzyloxycarbonylamino)-N-{1-[2-(trimethylsilyl)ethoxymethyl]pyrrolo[2,3-b]pyridin-4-yl}thiochromane-7-carboxamide (1.06 g) as a pale-brown amorphous solid.

reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | 4-amino-1-[2-(trimethylsilyl)ethoxymethyl]pyrrolo[2,3-b]pyridine | 1.32 g | NC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C13H21N3OSi
reactant | n-butyllithium | 1.59 M, 3.17 ml | C(CCC)[Li]
reactant | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
reactant | (S)-4-(benzyloxycarbonylamino)thiochromane-7-carboxylic acid chloride | 4.20 mmol | C(C1=CC=CC=C1)OC(=O)N[C@H]1CCSC2=CC(=CC=C12)C(=O)Cl | C18H16ClNO3S
solvent | Water | 100 ml | O | H2O
product | (S)-4-(benzyloxycarbonylamino)-N-{1-[2-(trimethylsilyl)ethoxymethyl]pyrrolo[2,3-b]pyridin-4-yl}thiochromane-7-carboxamide | 1.06 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1CCSC2=CC(=CC=C12)C(=O)NC1=C2C(=NC=C1)N(C=C2)COCC[Si](C)(C)C | C31H36N4O4SSi
